US06605633B1
Methyl 4-Fluoro-ε-oxobenzenehexanoate
A suspension of 2.59 g (19.4.10−3 mol) of aluminum chloride in 4 ml of dichloromethane is prepared. It is cooled to −5° C. and a mixture of 0.97 ml (10.3.10−3 mol) of fluorobenzene and 1.31 ml (8.4.10−3 mol) of methyl 6-chloro-6-oxohexanoate in 3 ml of dichloromethane is added gradually, the temperature being maintained between −4 and −7° C. The temperature is then allowed to rise to 20° C. and, after 15 hours, the mixture is hydrolyzed in acidified iced water. It is extracted with dichloromethane and the organic phase obtained is washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The 2 g of crude product recovered in this way are purified by chromatography on silica gel using a petroleum ether/ethyl acetate mixture (96/4) as the eluent to give 1.26 g of the expected product in the form of a white powder (yield=63%).

reactant | aluminum chloride | 2.59 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | fluorobenzene | 0.97 ml | FC1=CC=CC=C1 | C6H5F
reactant | methyl 6-chloro-6-oxohexanoate | 1.31 ml | ClC(CCCCC(=O)OC)=O | C7H11ClO3
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | Methyl 4-Fluoro-ε-oxobenzenehexanoate | 1.26 g | FC1=CC=C(C=C1)C(CCCCC(=O)OC)=O | C13H15FO3
